US07144896B2
Step 2: Quinoline 9
To a solution of the 8-(3-nitro-phenyl)-6-pyridin-4-ylmethyl-quinoline (1.0 eq) described in Step 1 in EtOH (0.2M) at 60° C. was added of water (final concentration 0.15M) and saturated aqueous NH4Cl (1.3 eq) followed by iron (12 eq). The final mixture was stirred at 60° C. for 2 h, cooled to room temperature, filtered on celite and concentrated to afford the title compound as a yellow solid.

reactant | 8-(3-nitro-phenyl)-6-pyridin-4-ylmethyl-quinoline | 1.0 eq | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=C(C=C2C=CC=NC12)CC1=CC=NC=C1 | C21H15N3O2
reactant | water | O | H2O
reactant | NH4Cl | 1.3 eq | [NH4+].[Cl-]
solvent | EtOH | 0.2M | CCO | C2H6O
catalyst | iron | 12 eq | [Fe] | Fe
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
